US07872009B2
To a 2 L round bottomed flask was added 3-(1-(tert-butyldimethylsilyloxy)cyclobutyl)propane-1,2-diol (80.0 g, 307 mmol) and THF/t-BuOH/H2O (1:1:2, 2 L). Sodium periodate (120.15 g, 562 mmol) was added and the reaction was stirred at RT. After addition the solution became yellow and thickened. The stirrer was adjusted to maintain stirring. After 1.5 h, the reaction is complete as monitored by TLC (10% EtOAc/Hexane). 300 mL H2O was added to the reaction and the aqueous solution was extracted with ether (3×600 mL). The combined organics were dried over MgSO4 and carefully concentrated in vacuo (Note: volatile product). The oil was re-dissolved in 200 mL of benzene and azeotroped to remove any excess t-BuOH. The crude oil was adsorbed onto a plug of silica gel and chromatographed through a glass column, eluting with 3% EtOAc in hexane, to provide a golden oil after concentrating in vacuo (Note: volatile product). The oil was dissolved in 200 mL of benzene and concentrated in vacuo. The mixture was further concentrated to remove excess benzene to give 2-(1-(tert-butyldimethylsilyloxy)cyclobutyl) acetaldehyde (67.5 g, 296 mmol, 96.2% yield). The title compound yielded contained some benzene and was carried forward without further purification.

reactant | 3-(1-(tert-butyldimethylsilyloxy)cyclobutyl)propane-1,2-diol | 307 mmol, 80.0 g | [Si](C)(C)(C(C)(C)C)OC1(CCC1)CC(CO)O | C13H28O3Si
reactant | THF t-BuOH H2O | 2 L | C1CCOC1.CC(C)(C)O.O
reactant | Sodium periodate | 562 mmol, 120.15 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | EtOAc Hexane | CCOC(=O)C.CCCCCC
solvent | H2O | 300 mL | O | H2O
product | 2-(1-(tert-butyldimethylsilyloxy)cyclobutyl) acetaldehyde | 296 mmol, 67.5 g, 96.2% yield | [Si](C)(C)(C(C)(C)C)OC1(CCC1)CC=O | C12H24O2Si
